US05196147
Synthesis of 2-cyano-3-(4-dimethylaminophenyl)-2-propenoic acid (2)
In 400 ml of an aqueous solution of 13.77 g of sodium hydroxide, 34.80 g of methyl cyanoacetate was dissolved and 34.01 g of p-dimethylamino benzaldehyde was then added under a nitrogen atmosphere, followed by adding 200 ml of ethanol to obtain a uniform solution. Under reflux, the stirring was continued for 51 hours and the reaction mixture was added to 12 N hydrochloric acid to obtain the precipitates. The resultant solid was repeated twice to recrystallize from a methanol/ethanol mixture to obtain 13.51 g of the needles.

reactant | sodium hydroxide | 13.77 g | [OH-].[Na+]
reactant | methyl cyanoacetate | 34.80 g | C(#N)CC(=O)OC | C4H5NO2
reactant | p-dimethylamino benzaldehyde | 34.01 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | hydrochloric acid | 12 N | Cl | ClH
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-cyano-3-(4-dimethylaminophenyl)-2-propenoic acid | 13.51 g, Yield: 37% | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)N(C)C | C12H12N2O2
